US05750531
Step 4: 6-Methyl-4-(2-methyl-4-fluorophenylamino)-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
2-Methyl-4-fluoroaniline(1.1 ml, 10.2 mmol) was added to a mixture solution of 6-methyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine(1.5 g, 5.5 mmol) and dimethylformamide(10 ml). The reaction solution was stirred for 3 hours and cooled to room temperature. The reaction mixture was diluted with dichloromethane and washed with water. Dichloromethane layer was separated, basified with aqueous sodium hydroxide solution, washed with water, and dried and concentrated in vacuo. The resulting residue was purified with silica gel column chromatography to give a free base form of titled compound as an oily form. The free base form of titled compound was dissolved in ethyl ether, then hydrochloric acid was added thereto. The resulting solid was filtered, dried under reduced pressure to give 0.9 g of titled compound.

reactant | 2-Methyl-4-fluoroaniline | 10.2 mmol, 1.1 ml | CC1=C(N)C=CC(=C1)F | C7H8FN
reactant | 6-methyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine | 5.5 mmol, 1.5 g | CC1=CC(=NC(=N1)N1C(C2=CC=CC=C2CC1)C)Cl | C15H16ClN3
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-Methyl-4-(2-methyl-4-fluorophenylamino)-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | Cl.CC1=CC(=NC(=N1)N1C(C2=CC=CC=C2CC1)C)NC1=C(C=C(C=C1)F)C | InChI=1S/C22H23FN4.ClH/c1-14-12-18(23)8-9-20(14)25-21-13-15(2)24-22(26-21)27-11-10-17-6-4-5-7-19(17)16(27)3;/h4-9,12-13,16H,10-11H2,1-3H3,(H,24,25,26);1H
